US08349850B2
500 mg of methyl 4-oxo-4H-chromene-2-carboxylate were dissolved in 25 ml of anhydrous methanol at room temperature, and NaBH4 was thereafter added to the solution slowly, until the starting material was no longer detected by TLC (about 300 mg). The solvent was then evaporated and a mixture of 1.1 gram of NaH2PO4.2H2O in 30 ml of water was added to the resulting residue. The pH of the mixture was maintained between 5 and 9, so as to prevent decomposition of chromone. The aqueous solution was washed with chloroform (3×50 ml) and the combined organic extracts were dried over Na2SO4. The solvent was evaporated to give 2-(hydroxymethyl)-4H-chromen-4-one which was used without future purification.

reactant | methyl 4-oxo-4H-chromene-2-carboxylate | 500 mg | O=C1C=C(OC2=CC=CC=C12)C(=O)OC | C11H8O4
reactant | NaBH4 | [BH4-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 2-(hydroxymethyl)-4H-chromen-4-one | OCC=1OC2=CC=CC=C2C(C1)=O | C10H8O3
